US03966737
103 G. of 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-one, 500 ml. of benzene and 38.4 g. of finely pulverized calcium chloride are saturated with hydrochloric acid gas at 15° and stirred overnight. The residue is filtered, washed with benzene and evaporated under reduced pressure, whereby there is obtained 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin, having a melting point of 63°-64°.

reactant | 8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin-10-one | FC=1C=CC2=C(C(CC3=C(S2)C=CC(=C3)C)=O)C1 | C15H11FOS
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 10-chloro-8-fluoro-10,11-dihydro-2-methyl-dibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=CC(=C2)C | C15H12ClFS
